US07759459B2
Synthesis of 5-Fluoro-2,4-dimethoxy-benzonitrile (5).
Sodium methoxide (25% wt in MeOH, 32 mL) was added dropwise to a solution of 2,4,5-trifluorobenzonitrile (10 g, 63.7 mmol) in MeOH (160 mL) under nitrogen at 0° C. The resulting reaction mixture was stirred at reflux for 48 h. The reaction was then quenched with 1 M citric acid and the MeOH was removed in vacuo. The residue was taken up in EtOAc, washed with brine, dried over Na2SO4, concentrated in vacuo and recrystallized from EtOAc/hexane to furnish the desired product in 95% yield (11 g). 1H NMR (300 MHz, CDCl3) δ 7.25 (d, 1H, J=10.2 Hz), 6.52 (d, 1H, J=6.8 Hz), 3.97 (s, 3H), 3.93 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 159.3, 159.2, 152.8, 152.6, 147.6, 144.4, 119.8, 119.5, 115.8, 115.7, 97.4, 97.3, 92.1, 92.0, 56.6, 56.5; 19F NMR (282 MHz, CDCl3) δ −143.4 (dd, 1 F); mass spectrum, calculated for C9H8FNO2 (MH+) 182.1, Found 182.1.

reactant | Sodium methoxide | 32 mL | C[O-].[Na+]
reactant | 2,4,5-trifluorobenzonitrile | 63.7 mmol, 10 g | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | MeOH | 160 mL | CO | CH4O
product | 5-Fluoro-2,4-dimethoxy-benzonitrile | 95% yield | FC=1C(=CC(=C(C#N)C1)OC)OC | C9H8FNO2
